US04151179
(a) Ethyl-2-[2,3-dihydro-2-(1,1-dimethylethyl)-4-oxo-4H-1-benzopyran-6-yl]propionate
Ethyl-2-[2-(1,1-dimethylethyl)-4-oxo-4H-1-benzopyran-6-yl]propionate (6.61 g) was taken up in dry ethanol (150 ml) and hydrogenated at 85 p.s.i. with 5% palladium on carbon (0.2 g) and 5% palladium on barium sulphate (0.4 g) for a total of 48 hours. The catalyst was removed by filtration (`Hyflo` supercel) and the ethanol removed in vacuo affording an oil. The oil was taken up in acetone (50 ml) and treated with a slight excess of Jones reagent. The excess oxidant was destroyed with methanol and the reaction mixture was dissolved in water (200 ml) and extracted with ether. The combined ethereal extracts were washed with water, dilute aqueous sodium bicarbonate solution and water, dried (MgSO4) and concentrated in vacuo to give the title compound as an oil - 6 g.

reactant | Ethyl-2-[2-(1,1-dimethylethyl)-4-oxo-4H-1-benzopyran-6-yl]propionate | 6.61 g | C(C)OC(C(C)C=1C=CC2=C(C(C=C(O2)C(C)(C)C)=O)C1)=O | C18H22O4
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Ethyl-2-[2,3-dihydro-2-(1,1-dimethylethyl)-4-oxo-4H-1-benzopyran-6-yl]propionate | C(C)OC(C(C)C=1C=CC2=C(C(CC(O2)C(C)(C)C)=O)C1)=O | C18H24O4
